US07858646B2
Synthesis of 4-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile
Combine 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (1.00 g, 3.34 mmol), 4-bromo-benzonitrile (553 mg, 3.03 mmol), cesium carbonate (1.39 g, 4.25 mmol), and 18-crown-6 (80 mg, 0.304 mmol) in toluene (25 mL) and stir. Purge reaction vessel with argon. Add BINAP [rac-2,2′-bis(diphenyl-phosphino)-1,1′-binaphthyl] (284 mg, 0.456 mmol), and palladium acetate (68 mg, 0.304 mmol). Purge reaction vessel with argon. Heat to 100° C. After 18 hours, cool to ambient temperature. Add 10% aqueous citric acid, and extract with ethyl acetate. Combine the organic layers, dry with sodium sulfate, filter and concentrate to dryness. Purify the resulting residue by flash chromatography eluting with 30% ethyl acetate:hexanes to yield the title compound as a yellow solid (760 mg, 63%): 1H NMR (CDCl3) δ 0.92 (t, 3H), 1.58 (sextet, 2H), 2.56 (s, 3H), 2.69 (t, 2H), 5.15 (s, 2H), 6.07 (bs, 1H), 6.47 (d, 1H), 6.98 (d, 2H), 7.13 (t, 2H), 7.23 (m, 1H), 7.38 (t, 1H), 7.49 (d, 2H), 7.58 (d, 1H), 12.75 (s, 1H).

reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 3.34 mmol, 1.00 g | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | 4-bromo-benzonitrile | 3.03 mmol, 553 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | cesium carbonate | 4.25 mmol, 1.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 18-crown-6 | 0.304 mmol, 80 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | BINAP | 0.456 mmol, 284 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.304 mmol, 68 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile | 760 mg, 63% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC2=CC=C(C#N)C=C2)C=C1)CCC)O | C25H24N2O3
